US05457104
b) Diethyl (2,3,4 -trifluorobenzoyl)malonate
3.6 g (0.148 mol) of magnesium filings are introduced into 8.1 ml of ethanol, the reaction is started up using a few drops of carbon tetrachloride, and a solution of 21.8 g (0.136 mol) of diethyl malonate in 15 ml of ethanol and 58 ml of toluene is subsequently added dropwise in such a manner that the internal temperature is between 50 and 60° C. Stirring is subsequently continued for one hour at 60° C. A solution of 27.6 g (0.15 mol) of 2,3,4-trifluorobenzoyl chloride in 15.4 ml of toluene is added dropwise at -10° to -5° C., and stirring is continued for one hour at 0° C. and subsequently overnight, allowing the mixture to come to room temperature. The batch is poured into 60 ml of ice-water, treated with 9.7 ml of concentrated sulphuric acid and extracted using toluene. The toluene phase is washed with saturated sodium chloride solution and the solvent is removed in vacuo.

reactant | magnesium | 0.148 mol, 3.6 g | [Mg] | Mg
reactant | diethyl malonate | 0.136 mol, 21.8 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2,3,4-trifluorobenzoyl chloride | 0.15 mol, 27.6 g | FC1=C(C(=O)Cl)C=CC(=C1F)F | C7H2ClF3O
reactant | sulphuric acid | 9.7 ml | S(O)(O)(=O)=O | H2O4S
catalyst | carbon tetrachloride | a few drops | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | toluene | 58 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15.4 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 8.1 ml | C(C)O | C2H6O
product | Diethyl (2,3,4 -trifluorobenzoyl)malonate | FC1=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=CC(=C1F)F | C14H13F3O5
